US07943622B2
2-chloro-5-methoxybenzo[d]thiazole
Sulfuryl chloride (1.64 mL) was added to a solution of 5-methoxy-2-mercaptobenzothiazole in THF (20 mL). After stirring overnight, ice water was added. The reaction mixture was allowed to warm to rt and was diluted with EtOAc (100 mL). This was washed with water (50 mL) and brine (50 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The material was purified by column chromatography (0 to 3% EtOAc in hexanes gradient), yielding 0.407 g (20%) of the title compound as a white solid. LC-MS: RT=9.05 min., [M+H]+=200.0. Rf=0.38 in 10% EtOAc/Hexanes.

reactant | Sulfuryl chloride | 1.64 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 5-methoxy-2-mercaptobenzothiazole | COC=1C=CC2=C(N=C(S2)S)C1 | C8H7NOS2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-chloro-5-methoxybenzo[d]thiazole | 0.407 g, 20% | ClC=1SC2=C(N1)C=C(C=C2)OC | C8H6ClNOS
